US05922871
4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin4-yl-carbonyl]-1-[N-[2-(piperidin-1-yl)ethyl]carbamoyl]benzene
By the same procedure as described in the example 56, synthesis was carried out starting with 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester and using 1-(2-aminoethyl)piperidine. Then, the product was recrystallized using acetonitrile and hexane to give the desired compound.

reactant | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C21H26N4O3
reactant | 1-(2-aminoethyl)piperidine | NCCN1CCCCC1 | C7H16N2
product | 4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin4-yl-carbonyl]-1-[N-[2-(piperidin-1-yl)ethyl]carbamoyl]benzene | Yield: 70% | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C(NCCN1CCCCC1)=O | C27H38N6O2
